US07692005B2
N-(4-{3-[(4-Morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-acetamide
A dry 50 mL flask was charged with N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide (prepared below, 70 mg, 0.217 mmol) and Dioxane (10 mL). To the resulting solution was added N-(4-aminophenyl)morpholine (200 mg, 1.122 mmol), and the mixture was stirred for 24 h at 100° C. Subsequently, the reaction mixture was cooled to room temperature. The resulting suspension was concentrated in vacuo and the resulting solid residue was recrystallized from iPrOH (˜5 mL). The solid recovered through filtration then was subjected to flash silica gel chromatography using a 5% MeOH/CHCl3 eluant mixture to afford the title compound in 33% yield (35 mg, 0.072 mmol).

reactant | N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide | 0.217 mmol, 70 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C18H14N2O4
reactant | N-(4-aminophenyl)morpholine | 1.122 mmol, 200 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
solvent | Dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(4-{3-[(4-Morpholin-4-yl-phenylamino)-methylene]-2-oxo-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-acetamide | 33% yield | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C28H26N4O4
